US05939451
0.2 g (0.00061 mol) of 4-amino-N-(2-azetidin-1-yl-6-chloro-pyrimidin-4-yl)-benzenesulfonamide was dissolved in 20 ml of ethanol, treated with 3.9 ml (0.061 mol) of ethylamine and stirred in an autoclave at 130° C. for 12 hours. The reaction mixture was free from solvent, the residue was suspended in 5 ml of ethanol and treated in an ultrasound bath for 15 minutes. The precipitate was filtered off, dissolved in 10 ml of 0.1N NaOH and filtered. The filtrate was adjusted to pH 6 with 0.1N HCl. The precipitate was filtered off under suction, washed with water and dried. There was obtained 0.090 g (44%) of 4-amino-N-(2-azetidin-1-yl-6-ethylamino-pyrimidin-4-yl)-benzenesulfonamide as beige crystals; m.p.: 260-262° C.

reactant | 4-amino-N-(2-azetidin-1-yl-6-chloro-pyrimidin-4-yl)-benzenesulfonamide | 0.00061 mol, 0.2 g | NC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1)Cl)N1CCC1 | C13H14ClN5O2S
reactant | ethylamine | 0.061 mol, 3.9 ml | C(C)N | C2H7N
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-amino-N-(2-azetidin-1-yl-6-ethylamino-pyrimidin-4-yl)-benzenesulfonamide | 0.090 g, 44% | NC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1)NCC)N1CCC1 | C15H20N6O2S
